US09169261B2
To a solution of (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.036 g, 0.093 mmol, 1 eq) in 1.8 mL of DMF was added (4-fluorophenyl)boronic acid (0.10 g, 0.71 mmol, 7.7 eq), followed by K2CO3 (0.18 g, 1.3 mmol, 14 eq) in 0.2 mL of H2O and Pd(dppf)Cl2 (0.02 g, 0.03 mmol, 0.3 eq). After heating for 1 h at 120° C. the mixture was filtered and purified by HPLC to afford (S)-5-(4-fluorophenyl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.014 g, 0.035 mmol, 37%). 1H NMR (400 MHz, CD3OD) δ 9.17 (s, 2 H), 7.83 (m, 3 H), 7.71 (d, J=5.4 Hz, 1 H), 7.56 (s, 1 H), 7.31 (t, J=8.5 Hz, 2 H), 6.92 (s, 1 H), 6.85 (d, J=5.9 Hz, 1 H), 5.00-3.60 (br, 5 H), 2.65-2.30 (br, 2 H); MS: (ES) m/z calculated for C22H19FN6O [M+H]+ 403.2, found 403.

reactant | (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.093 mmol, 0.036 g, 1 eq | BrC=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C16H15BrN6O
reactant | (4-fluorophenyl)boronic acid | 0.71 mmol, 0.10 g, 7.7 eq | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 1.3 mmol, 0.18 g, 14 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 0.02 g, 0.3 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-5-(4-fluorophenyl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.035 mmol, 0.014 g, 37% | FC1=CC=C(C=C1)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C22H19FN6O
